US08119663B2
4-({3-(3-(Pyridin-3-yl)-1,2,4-oxadiazol-5-yl)-5-[4-(trifluoromethyl)phenyl]piperidin-1-yl}-carbonyl)morpholine [racemic cis isomer]
250 mg (about 0.65 mmol) of 1-(morpholin-4-ylcarbonyl)-5-[4-(trifluoromethyl)phenyl]piperidine-3-carboxylic acid and 98 mg (0.71 mmol) of N′-hydroxypyridine-3-carboximidamide were reacted according to the General Method 1. Yield: 35 mg (11% of theory)

reactant | 1-(morpholin-4-ylcarbonyl)-5-[4-(trifluoromethyl)phenyl]piperidine-3-carboxylic acid | about 0.65 mmol, 250 mg | N1(CCOCC1)C(=O)N1CC(CC(C1)C1=CC=C(C=C1)C(F)(F)F)C(=O)O | C18H21F3N2O4
reactant | N′-hydroxypyridine-3-carboximidamide | 0.71 mmol, 98 mg | ON=C(N)C=1C=NC=CC1 | C6H7N3O
product | 4-({3-(3-(Pyridin-3-yl)-1,2,4-oxadiazol-5-yl)-5-[4-(trifluoromethyl)phenyl]piperidin-1-yl}-carbonyl)morpholine | N1=CC(=CC=C1)C1=NOC(=N1)C1CN(CC(C1)C1=CC=C(C=C1)C(F)(F)F)C(=O)N1CCOCC1 | C24H24F3N5O3
